US05246943
5-[[3-Methoxy-2-(phenylmethoxy)phenyl]methylene]-2,4-imidazolidinedione
A solution of 96.90 g (0.40 mole) of 2-benzyloxy-3-methoxybenzaldehyde, 48.04 g (0.48 mole) of hydantoin, 8.02 g (0.09 mole) of β-alanine, and 200 mL of glacial acetic acid is stirred at reflux for 6 hours. Water (500 mL) is added and the separated solid is filtered, washed well with water, methanol, and then ether; wt 109.00 g (84% yield); mp 210-212° C.

reactant | 2-benzyloxy-3-methoxybenzaldehyde | 0.40 mole, 96.90 g | C(C1=CC=CC=C1)OC1=C(C=O)C=CC=C1OC | C15H14O3
reactant | hydantoin | 0.48 mole, 48.04 g | N1C(=O)NC(=O)C1 | C3H4N2O2
reactant | β-alanine | 0.09 mole, 8.02 g | NCCC(=O)O | C3H7NO2
reactant | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
solvent | Water | 500 mL | O | H2O
product | 5-[[3-Methoxy-2-(phenylmethoxy)phenyl]methylene]-2,4-imidazolidinedione | 84% yield | COC=1C(=C(C=CC1)C=C1C(NC(N1)=O)=O)OCC1=CC=CC=C1 | C18H16N2O4
